US05994378
A solution of 4-tert-butyl-2-{5-[(4-carboxythiazol-2-yl)methyl]benzofuran-2-yl}thiazole (0.20 g), 2-methylbenzenesulfonamide (0.10 g), 4-dimethylaminopyridine (0.12 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.19 g) in N,N-dimethylformamide (6 ml) was stirred at ambient temperature for 2 days. The resulting mixture was poured into ice-water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated in reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with ethyl acetate. The fractions containing object compound were combined and concentrated under reduced pressure. The residue was crystallized from diethyl ether and filtered to give 4-tert-butyl-2-{5-{{4-[N-(2-methylphenylsulfonyl)carbamoyl]thiazol-2-yl}methyl}-benzofuran-2-yl}thiazole (0.18 g).

reactant | 4-tert-butyl-2-{5-[(4-carboxythiazol-2-yl)methyl]benzofuran-2-yl}thiazole | 0.20 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CC=2SC=C(N2)C(=O)O | C20H18N2O3S2
reactant | 2-methylbenzenesulfonamide | 0.10 g | CC1=C(C=CC=C1)S(=O)(=O)N | C7H9NO2S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.19 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 0.12 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 4-tert-butyl-2-{5-{{4-[N-(2-methylphenylsulfonyl)carbamoyl]thiazol-2-yl}methyl}-benzofuran-2-yl}thiazole | 0.18 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CC=2SC=C(N2)C(NS(=O)(=O)C2=C(C=CC=C2)C)=O | C27H25N3O4S3
